US06060484
A. 4-Cyano-4-phenylcyclohexanol
A cold (0° C.) solution of 4-cyano-4-phenylcyclohexanone (5.0 g, 25.1 mmol) in 30 ml of MeOH was treated with sodium borohydride (1.14 g, 30.1 mmol). The reaction mixture was stirred for 2 hours at room temperature and then concentrated in vacuo.

reactant | 4-cyano-4-phenylcyclohexanone | 25.1 mmol, 5.0 g | C(#N)C1(CCC(CC1)=O)C1=CC=CC=C1 | C13H13NO
reactant | sodium borohydride | 30.1 mmol, 1.14 g | [BH4-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | 4-Cyano-4-phenylcyclohexanol | C(#N)C1(CCC(CC1)O)C1=CC=CC=C1 | C13H15NO
